US04020072
5-[(Dimethylamino)methyl]-3,4-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-6-ol, hydrochloride
To a suspension of 28.7 g. of 3,4-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-6-ol (0.15 mol.) in 1 1, of dimethylformamide is added 6.75 g. of paraformaldehyde (0.22 mol.) and 13.5 g. of dimethylamine hydrochloride (0.165 mol.) and the mixture is heated at 80° with stirring for 22 hours. Within two hours the starting compounds become dissolved and crystallization of 5-[(dimethylamino)methyl]-3,4-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-6-ol, hydrochloride (1:1) begins, increasing after cooling, yield 25.3 g. (59%), m.p. 291°-294°. A sample, recrystallized from dimethylformamide and dried at 140°, melts at 292°-295° (dec.).

reactant | 3,4-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-6-ol | 0.15 mol | CC1=NN(C2=NC(=CC(=C21)C)O)CC | C10H13N3O
reactant | paraformaldehyde | 0.22 mol | C=O | CH2O
reactant | dimethylamine hydrochloride | 0.165 mol | Cl.CNC
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-[(Dimethylamino)methyl]-3,4-dimethyl-1-ethyl-1H-pyrazolo[3,4-b]pyridin-6-ol, hydrochloride | Cl.CN(C)CC=1C(=C2C(=NC1O)N(N=C2C)CC)C | InChI=1S/C13H20N4O.ClH/c1-6-17-12-11(9(3)15-17)8(2)10(7-16(4)5)13(18)14-12;/h6-7H2,1-5H3,(H,14,18);1H
